US07776897B2
1M Hydrochloric acid was added to a THF (10 ml) solution of 3-[7,7-dimethyl-2-(2-thienyl)-6,8-dioxaspiro[3,5]non-2-yl]-5,6,7,8,9,10-hexahydro[1,2,4]triazolo[4,3-a]azocine (2270 mg) and the whole was stirred at room temperature for 30 minutes. The reaction solution and chloroform were added to a saturated aqueous sodium hydrogen carbonate solution and then the organic layer was separated. Furthermore, the organic layer washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and filtered and then the solvent was removed by evaporation under reduced pressure. The resulting crude product was purified by flash column chromatography (chloroform:methanol=9:1) to obtain 1862 mg of [3-(5,6,7,8,9,10-hexahydro[1,2,4]triazolo[4,3-a]azocin-3-yl)-3-(2-thienyl)cyclobutane-1,1-diyl]dimethanol (colorless solid).

reactant | Hydrochloric acid | 1M | Cl | ClH
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | 3-[7,7-dimethyl-2-(2-thienyl)-6,8-dioxaspiro[3,5]non-2-yl]-5,6,7,8,9,10-hexahydro[1,2,4]triazolo[4,3-a]azocine | 2270 mg | CC1(OCC2(CC(C2)(C=2SC=CC2)C2=NN=C3N2CCCCCC3)CO1)C | C21H29N3O2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | [3-(5,6,7,8,9,10-hexahydro[1,2,4]triazolo[4,3-a]azocin-3-yl)-3-(2-thienyl)cyclobutane-1,1-diyl]dimethanol | 1862 mg | N=1N=C(N2C1CCCCCC2)C2(CC(C2)(CO)CO)C=2SC=CC2 | C18H25N3O2S
